US08420629B2
Step 2. 1-(cyanomethyl)-3-methylenecyclobutanecarbonitrile
A mixture of (1-cyano-3-methylenecyclobutyl)methyl methanesulfonate (0.41 g, 0.0020 mol) and potassium cyanide (0.66 g, 0.010 mol) in N,N-dimethylformamide (5 mL, 0.06 mol) was heated at 65° C. overnight. After diluting with water, the resulting mixture was extracted with EtOAc. The combined organic layers were washed with water, brine, dried and evaporated to dry. The residue was used directly in next step.

reactant | (1-cyano-3-methylenecyclobutyl)methyl methanesulfonate | 0.0020 mol, 0.41 g | CS(=O)(=O)OCC1(CC(C1)=C)C#N | C8H11NO3S
reactant | potassium cyanide | 0.010 mol, 0.66 g | [C-]#N.[K+]
reactant | N,N-dimethylformamide | 0.06 mol, 5 mL | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 1-(cyanomethyl)-3-methylenecyclobutanecarbonitrile | C(#N)CC1(CC(C1)=C)C#N | C8H8N2
